US07772245B2
To a 0° C. solution of methyl-2-{8-[5-(formyl)-thien-2-yl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate (0.09 g, 0.21 mmol) in DCM (50 mL) was added Na(OAc)3BH (0.114 g, 0.53 mmol) and stirred for 10 min. To the reaction mixture was added N-methylpiperazine (0.107 g, 1.07 mmol) under nitrogen atmosphere and the reaction mixture was continued stirring at room temperature for 4 hr. The progress of the reaction was monitored by TLC and upon completion of the reaction the mixture was partitioned between DCM (100 mL) and water (15 mL) and the organic layer was separated, washed with water (2×10 mL), dried over sodium sulphate filtered and the solvent was removed under reduced pressure to give crude residue, which was purified by column chromatography using silica gel to provide methyl-2-{8-[5-((4-methylpiperazin-1-yl)methyl)-thien-2-yl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate (0.08 g).

reactant | methyl-2-{8-[5-(formyl)-thien-2-yl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate | 0.21 mmol, 0.09 g | COC(=O)C=1C=NC(=NC1)N1CC2=C(NC=3C=CC(=CC23)C=2SC(=CC2)C=O)CC1 | C22H18N4O3S
reactant | Na(OAc)3BH | 0.53 mmol, 0.114 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | N-methylpiperazine | 1.07 mmol, 0.107 g | CN1CCNCC1 | C5H12N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl-2-{8-[5-((4-methylpiperazin-1-yl)methyl)-thien-2-yl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate | 0.08 g | COC(=O)C=1C=NC(=NC1)N1CC2=C(NC=3C=CC(=CC23)C=2SC(=CC2)CN2CCN(CC2)C)CC1 | C27H30N6O2S
